US07183436B2
7.48 g 4-(4-bromophenyl)-4-dimethylamino-1-phenethylcyclohexanol were dissolved in 30 ml diisopropylether and 10 ml diethylether and were stirred for 4 days with 13 ml 4-molar hydrochloric acid. To work up the reaction mixture, it was alkalized by addition of sodium hydroxide solution (32% by weight), extracted three times with 30 ml dichloromethane in each case, the combined extracts were dried over sodium sulfate, filtered, concentrated and substantially freed of solvent residues under vacuum. The 5.02 g 4-(4-bromophenyl)-4-dimethylaminocyclohexanone obtained, dissolved in 22 ml tetrahydrofuran, were added dropwise to 18 ml 1.0 molar phenethyl magnesium chloride solution in THF in a nitrogen atmosphere at ambient temperature and were stirred overnight. To work up the mixture with ice cooling, 28 ml ammonium chloride solution (20% by weight) were added, the phases were separated, the mixture was extracted three times with 25 ml diethylether in each case, the combined organic phases were dried over sodium sulfate, filtered, concentrated and substantially freed of solvent residues under vacuum. The crude product obtained (5.83 g) was taken up in 50 ml diethylether, extracted three times with 40 ml hydrochloric acid (5% by weight) in each case and the combined extracts were washed twice with 40 ml dichloromethane in each case. The dichloromethane extracts were dried over sodium sulfate, filtered, concentrated and substantially freed of solvent residues under vacuum. 3.66 g of a light brown resin were obtained and were chromatographed with diethylether/hexane (V:V=2:1) over silica gel. The 1.38 g 4-(4-bromophenyl)-4-dimethylaminocyclohexanone obtained were dissolved in 20 ml 2-butanone and converted by reaction with 474 μl chlorotrimethylsilane and 34 μl water, stirring overnight with subsequent filtration, diethylether washing and vacuum drying, into 1.47 mg of the corresponding hydrochloride.

reactant | 4-(4-bromophenyl)-4-dimethylamino-1-phenethylcyclohexanol | 7.48 g | BrC1=CC=C(C=C1)C1(CCC(CC1)(O)CCC1=CC=CC=C1)N(C)C | C22H28BrNO
reactant | diethylether | 10 ml | C(C)OCC | C4H10O
reactant | hydrochloric acid | 4-molar, 13 ml | Cl | ClH
reactant | sodium hydroxide | [OH-].[Na+]
solvent | diisopropylether | 30 ml | C(C)(C)OC(C)C | C6H14O
product | 4-(4-bromophenyl)-4-dimethylaminocyclohexanone | 5.02 g | BrC1=CC=C(C=C1)C1(CCC(CC1)=O)N(C)C | C14H18BrNO
